US06235787B1
4.48 g of 3(R)-carboxy-2(S)-hydroxy-5-methylhexanoic acid were stirred under nitrogen in 10 ml of trifluoroacetic anhydride for 1.5 hours. The solvent was evaporated and the residue was dissolved in 20 ml of dry methanol and stirred overnight at room temperature. The solvent was evaporated to give 5.3 g of methyl 3(R)-carboxy-2(S)-hydroxy-5-methylhexanoate in the form of an orange oil.

reactant | 3(R)-carboxy-2(S)-hydroxy-5-methylhexanoic acid | 4.48 g | C(=O)(O)[C@@H]([C@@H](C(=O)O)O)CC(C)C | C8H14O5
reactant | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | methyl 3(R)-carboxy-2(S)-hydroxy-5-methylhexanoate | 5.3 g | C(=O)(O)[C@@H]([C@@H](C(=O)OC)O)CC(C)C | C9H16O5
